### PR TITLE
[Merged by Bors] - feat: composition lemmas about `mvfderiv` and `mvfderivWithin`

### PR DESCRIPTION
**Pull request by scholzhannah**
These are analogous to existing lemmas about `mfderiv(Within)`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 1]
```diff
@@ -593,3 +593,52 @@ lemma mvfderiv_zero {x : M} : d% (0 : M → F) x = 0 := by
     simp
   simpa using this
 @[deprecated (since := "2026-05-17")] alias extDerivFun_zero := mvfderiv_zero
+
+section
+
+variable {f : M' → M} {g : M → 𝕜} (x : M') {y : M} {u : Set M} {s : Set M'}
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean]: It's probably a slightly safer default to make x implicit, and repeat it in the lemmas that need it.

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 2]
```diff
@@ -593,3 +593,52 @@ lemma mvfderiv_zero {x : M} : d% (0 : M → F) x = 0 := by
...
+
+theorem mvfderivWithin_comp (hg : MDiffAt[u] g (f x)) (hf : MDiffAt[s] f x) (h : s ⊆ f ⁻¹' u)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean]: I think the formatting in the mfderiv file was slightly nicer (all the hypotheses on one line, and the conclusion on a separate line). Up to you if you want to reformat these lemmas accordingly.

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 3]
```diff
@@ -593,3 +593,52 @@ lemma mvfderiv_zero {x : M} : d% (0 : M → F) x = 0 := by
...
+    (hf : MDiffAt[s] f x) (h : f ⁻¹' u ∈ 𝓝[s] x) (hxs : UniqueMDiffAt[s] x) :
+    d[s] (g ∘ f) x = (d[u] g (f x)).comp (mfderiv[s] f x) :=
+  mfderivWithin_comp_of_preimage_mem_nhdsWithin x hg hf h hxs
+
+theorem mvfderivWithin_comp_of_preimage_mem_nhdsWithin_of_eq (hg : MDiffAt[u] g y)
+    (hf : MDiffAt[s] f x) (h : f ⁻¹' u ∈ 𝓝[s] x) (hxs : UniqueMDiffAt[s] x) (hy : f x = y) :
+    d[s] (g ∘ f) x = (d[u] g y).comp (mfderiv[s] f x) :=
+  mfderivWithin_comp_of_preimage_mem_nhdsWithin_of_eq x hg hf h hxs hy
+
+theorem mvfderiv_comp_mfderivWithin (hg : MDiffAt g (f x)) (hf : MDiffAt[s] f x)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean]: also here

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 4]
```diff
@@ -593,3 +593,52 @@ lemma mvfderiv_zero {x : M} : d% (0 : M → F) x = 0 := by
...
+    (hxs : UniqueMDiffAt[s] x) : d[s] (g ∘ f) x = (d% g (f x)).comp (mfderiv[s] f x) :=
+  mfderiv_comp_mfderivWithin x hg hf hxs
+
+theorem mvfderiv_comp_mfderivWithin_of_eq {x : M'} (hg : MDiffAt g y) (hf : MDiffAt[s] f x)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean]: and here (and a few other places below)

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 5]
```diff
@@ -593,3 +593,52 @@ lemma mvfderiv_zero {x : M} : d% (0 : M → F) x = 0 := by
     simp
   simpa using this
 @[deprecated (since := "2026-05-17")] alias extDerivFun_zero := mvfderiv_zero
+
+section
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean:610]:
```suggestion
/-! ## Composition lemmas for `mvfderiv(Within)` -/
section
```

**Review by grunweg — COMMENTED** [review]
Thanks - looks nice, I just have minor nitpicks. Can you mention these lemmas in the module doc-string also?
bors d+

**Comment by grunweg** [comment]
These changes may also conflict with changing the definition of `mfderiv` in #42193 --- I think it's fine to make the adaptations in that PR, which will take a little while longer.

**Comment by scholzhannah** [comment]
Thanks for the review! 

bors r+
